US05710173
Reaction of 3-phenoxythiophen-2-carboxaldehyde and phenylsulfonylacetonitrile as in Example 1 gave (E)-3-(3-phenoxythien-2-yl)-2-(phenylsulfonyl)acrylonitrile.

reactant | 3-phenoxythiophen-2-carboxaldehyde | O(C1=CC=CC=C1)C1=C(SC=C1)C=O | C11H8O2S
reactant | phenylsulfonylacetonitrile | C1(=CC=CC=C1)S(=O)(=O)CC#N | C8H7NO2S
product | (E)-3-(3-phenoxythien-2-yl)-2-(phenylsulfonyl)acrylonitrile | O(C1=CC=CC=C1)C1=C(SC=C1)/C=C(\C#N)/S(=O)(=O)C1=CC=CC=C1 | C19H13NO3S2
